//* (C) Copyright Efficient Power Conversion Corporation. All rights reserved.
//*****************************************************************************
//* Version History:
//* 1.00: 07/10/2015 - Initial Model Creation
//* 1.01: 02/15/2017 - Updated the Model from the Preliminary Version
//* 1.02: 05/28/2019 - Fixed a typo

simulator lang=spectre

subckt EPC2038 (gatein drainin sourcein) 
parameters aWg=3 A1=0.12 k2=2.6 k3=0.13375 rpara=1.6157 rpara_s_factor=0.21 
 + aITc=0.00441 arTc=-0.0063 k2Tc=0.0006 x0_0=1.4954 x0_1=0 x0_1_TC=0 
 + dgs1=4.3e-07 dgs2=2.6e-13 dgs3=0.8 dgs4=0.23 dgs5=2.5e-3
 + dgs6=-1.985 dgs7=8e-2
 + ags1=6.8435e-12 ags2=1.0152e-12 ags3=2.0494 ags4=0.14922 
 + ags5=1.946e-14 ags6=-2.1782 ags7=0.026257 
 + agd1=5.4952e-15 agd2=6.5996e-14 agd3=-0.038873 agd4=0.67311 
 + agd5=5.3028e-13 agd6=-1.9623 agd7=5.7917 
 + agd8=4.5932e-14 agd9=-6.0586 agd10=39.324 
 + asd1=1.0863e-12 asd2=1.6683e-12 asd3=-22.288 asd4=4.8329 
 + asd5=2.2545e-12 asd6=-0.084303 asd7=36.279 rg_value=4.8 

rd (drainin drain) resistor r=((1-rpara_s_factor)*rpara*(1-arTc*(temp-25)))
rs (sourcein source) resistor r=(rpara_s_factor*rpara*(1-arTc*(temp-25)))
rg (gatein gate) resistor r=(rg_value)

rcsdconv (drain source) resistor r=(1E9/aWg)
rcgsconv (gate source) resistor r=(1E9/aWg)
rcgdconv (gate drain) resistor r=(1E9/aWg)

gswitch drain source bsource i=( (v(drain,source)>0) ? 
+	(A1*(1-aITc*(temp-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(temp-25))))/k3))* 
+	v(drain,source)/(1 + x0_0*v(drain,source)) ) : 
+	(-A1*(1-aITc*(temp-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(temp-25))))/k3))* 
+	v(source,drain)/(1 + x0_0*v(source,drain)) ) )

ggsdiode gate source bsource i=( (v(gate,source)>0) ? 
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1))) : 
+	(-dgs5*log(1+exp((-v(gate,source)+dgs6)/dgs7))))

ggddiode gate drain bsource i=( (v(gate,drain)>10) ? 
+	(0.125*aWg/1077*(dgs1*(exp((10.0)/dgs3)-1)+dgs2*(exp((10.0)/dgs4)-1))) : 
+	(0.125*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1))) )


C_GS  (gate source) bsource c=(ags1)  
G_CGS1 (gate source) bsource q=(0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+
+	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7)) )

C_GD  (gate drain) bsource c=(agd1)  
G_CGD1 (gate drain) bsource q=(0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+
+	agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+
+	agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+
+	agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10)) )

C_SD  (source drain) bsource c=(asd1) 
G_CSD1 (source drain) bsource q=(asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+
+	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7)) )

ends EPC2038
